US07842685B2
A solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)-thiazolo[5,4-b]pyridine (1.00 g, 2.087 mmol) and tetrahydro-2H-pyran-4-carbonyl chloride (0.434 mL, 2.92 mmol) in 15 mL toluene was sealed and heated to 80° C. After 4 h a precipitate formed. The reaction mixture was cooled and filtered, rinsing with Et2O, and the solid was dried in vacuo to give (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-thiazolo[5,4-b]pyridine-5-yl)(tetrahydro-2H-pyran-4-yl)methanone as a white solid. MS (ESI) m/z: Calculated: 428.1; Observed: 428.8 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)-thiazolo[5,4-b]pyridine | 2.087 mmol, 1.00 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)[Sn](C)(C)C)F
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | 2.92 mmol, 0.434 mL | O1CCC(CC1)C(=O)Cl | C6H9ClO2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-thiazolo[5,4-b]pyridine-5-yl)(tetrahydro-2H-pyran-4-yl)methanone | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=O)C1CCOCC1)F | C22H21FN2O4S
